US04475992
A 6 mg quantity of concentrated sulfuric acid was added to a solution of 244 mg of 1,3,5,6,6-pentamethoxy-3-methyl-1,4-cyclohexadiene and 10 ml of chloroform. Then the mixture was stirred at room temperature for 1 hour. Thereafter the reaction mixture was neutralized by adding sodium hydrogen carbonate and filtered. The filtrate was concentrated at reduced pressure. The residue was extracted with dichloromethane, the solvent was removed at reduced pressure and the residue was concentrated, recovering 210 mg of an oily crude product. The crude product was purified by silica gel column chromatography using a 20:1 benzene-ethyl acetate mixture, giving 197 mg of 1,5,6,6-tetramethoxy-3-methylidene-1,4-cyclohexadiene in 93% of theoretical yield. The compound thus obtained was identified by NMR.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 1,3,5,6,6-pentamethoxy-3-methyl-1,4-cyclohexadiene | 244 mg | COC1=CC(C=C(C1(OC)OC)OC)(C)OC | C12H20O5
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,5,6,6-tetramethoxy-3-methylidene-1,4-cyclohexadiene | 197 mg | COC1=CC(C=C(C1(OC)OC)OC)=C | C11H16O4
